Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
latex
 
Attending: ___.
 
Chief Complaint:
BRBPR
 
Major Surgical or Invasive Procedure:
CLS on ___
 
History of Present Illness:
___ w low grade lymphoma, Zenker's diverticulum s/p
dilatation, diverticulosis, gastric polyp, HLD p/w BRBPR. Pt was
in USOH until day of presentation when she had 2 episodes of
BRBPR with clots. She has a tough time estimating how much blood
she had. Has never had this before. No abd pain. 3 days prior 
she
ate some spicy food and the following day she has loose stool,
but then it firmed up on the day prior to admission. She denies
nausea, vomiting, fevers, chills, dysuria, urgency. SHe reports
that on standing on day of admission one time she felt
lightheaded. She reports poor PO on day of admission in large
part because she was in meetings all day. 
Last colonoscopy ___ as below, last EGD as below. 
Etoh only 0.5 glass wine nightly, no NSAIDs, no liver disease.
On walking today she briefly felt <5 minutes of chest discomfort
without n/v/diaphoresis/radiation/paresthesias, resolved on own.
Not pleuritic. No cough except her baseline intermittent 
Zenker's
type cough. She reports that she goes to the gym 4 times per 
week
(mostly uses bicycle) and never gets chest pain or SOB with 
that.
Denies ___. No weight loss or night sweats.

Drove herself to ED. ___, given PPI IV x1, 1L LR. GI consulted
who thought likely diverticular bleed but that colonoscopy 
___
was warranted.

 
Past Medical History:
colorectal polyps
diverticulosis
gastric polyps s/p polypectomy
esophageal stricture s/p dilatation
HLD
herpes progenitalis
Zenker
pre DM
follicular low grade lymphoma: followed by Dr. ___ at 
___

 
Social History:
___
Family History:
Mother died of aggressive lymphoma.  One of 5 siblings with
breast CA.  
Father had either IBS or IBD (she is not sure)
no colon cancer

 
Physical Exam:
Admission PE
Constitutional: VS reviewed, NAD, looks well
HEENT: eyes anicteric, normal hearing, nose unremarkable, MMM
without exudate
CV: RRR no mrg, JVP flat
Resp: CTAB
GI: sntnd, NABS
GU: no foley
MSK: no obvious synovitis
Ext: wwp, neg edema in BLEs
Skin: no rash grossly visible
Neuro: A&O grossly, MAEE, no facial droop
Psych: normal affect, pleasant

Discharge PE:

 
Pertinent Results:
RESULTS:
DATA: I have reviewed the relevant labs, radiology studies,
tracings, medical records, and they are notable for: 
___ 03:35PM BLOOD WBC: 8.1 RBC: 3.54* Hgb: 11.3 Hct: 33.7*
MCV: 95 MCH: 31.9 MCHC: 33.5 RDW: 12.6 RDWSD: 44.___ 
___ 07:20PM BLOOD WBC: 8.4 RBC: 3.49* Hgb: 10.9* Hct: 33.7*
MCV: 97 MCH: 31.2 MCHC: 32.3 RDW: 12.8 RDWSD: 45.___ 
___ 03:35PM BLOOD Neuts: 69.6 Lymphs: ___ Monos: 3.7* Eos:
0.7* Baso: 0.5 Im ___: 0.4 AbsNeut: 5.67 AbsLymp: 2.04 AbsMono:
0.30 AbsEos: 0.06 AbsBaso: 0.04 
___ 03:35PM BLOOD Glucose: 217* UreaN: 14 Creat: 0.9 Na: 
141
K: 4.0 Cl: 108 HCO3: 22 AnGap: 11 
___ 07:00PM URINE Blood: NEG Nitrite: NEG Protein: NEG
Glucose: NEG Ketone: NEG Bilirub: NEG Urobiln: NEG pH: 6.0 
Leuks:
NEG  

Colonoscopy:
Blood in proximal ascending colon to rectosigmoid. 
Diverticulosis of the whole colon. Decreased vascularity and 
granularity in the rectum. 
 
Brief Hospital Course:
___ w ___ s/p dilatation, diverticulosis, gastric polyps, 
low grade lymphoma p/w BRBPR, likely due to adiverticular bleed. 


ACUTE/ACTIVE PROBLEMS:
# Acute blood loss anemia due to diverticulitis
Pt presented with BRBPR and copious red blood in the toilet, 
which caused her to syncopize and brady to ___ on admission. 
Since she was on the toilet when this happened, it was presumed 
to be a vagal response, as her Hb only dropped to 8.0. She was 
given 2 units of blood and a third unit when she rebled while 
prepping for CLS. 
We presume this was a diverticular bleed given multiple 
nonbleeding diverticuli on colonoscopy. Colonoscopy was notable 
for blood in proximal ascending colon to rectosigmoid. 
Diverticulosis of the whole colon. Decreased vascularity and 
granularity in the rectum. 

#Hypernatremia
Likely related to free water deficit from NPO status. Started 
D5W bolus with improvement in serum sodium. 

# Chest pain: pt reports <5 minutes of chest pressure while
walking. History is not classic for cardiac chest pain, but this
is a consideration. Given her rigorous activity without chest
pain in the past, either this is new disease or this is not
cardiac disease (likely the latter). Does not appear overloaded,
and history not c/w PE. If this is cardiac related, it could be
demand related in setting of anemia, though this would be a high
hgb for ischemia. Overall I have a low suspicion for cardiac
disease.

# HLD: not on meds
___ 03:35PM BLOOD Cholest: 189 Triglyc: 110 HDL: 57 
CHOL/HD:
3.3 LDLcalc: 110 

# ___ s/p dilatation
- CTM

OUTSTANDING ISSUES
[ ] Chest pain: consider outpatient stress test 
[ ] Recheck Na
[ ] Patient may benefit from repeat flexible sigmoidoscopy with 
biopsies of the patch of decreased vascularity in the rectum 
after bleeding has resolved. 

>30 min spent on discharge planning including face to face time
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Vitamin D 1000 UNIT PO DAILY 
2. Calcium Carbonate Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
1.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Diverticular bleed
 
Discharge Condition:
Stable
 
Discharge Instructions:
You were admitted to the hospital with rectal bleeding. We 
performed a colonoscopy and noted multiple diverticuli, which 
are pockets in the walls of your digestive tract that can 
sometimes bleed. We also provided blood transfusions for anemia 
that developed due to the bleeding. 
 
Followup Instructions:
___